US07084158B2
Preparation of the starting material 4-methyl-1-(2-propynyl)piperidine:
At 0–5° C., propargyl bromide (12.01 g) was added dropwise with stirring to a suspension of 4-methylpiperidine (10.0 g) and potassium carbonate (13.96 g) in dry acetone (80 ml). The mixture was stirred at 50° C. for 6 hours and then filtered. The filtrate was concentrated under reduced pressure and the residue was taken up in dichloromethane. The organic phase was washed with water (3×15 ml), dried with sodium sulfate and concentrated under reduced pressure. Distillation of the residue under reduced pressure gave 12.73 g of an oil of boiling point 60° C./16 mm Hg.

reactant | propargyl bromide | 12.01 g | C(C#C)Br | C3H3Br
reactant | 4-methylpiperidine | 10.0 g | CC1CCNCC1 | C6H13N
reactant | potassium carbonate | 13.96 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 80 ml | CC(=O)C | C3H6O
product | 4-methyl-1-(2-propynyl)piperidine | 12.73 g | CC1CCN(CC1)CC#C | C9H15N
